US07521462B2
To a solution of 1,3-dimethyl-1H-pyrazol-4-methanol (0.33 g, 2.63 mmol), N-methyl morpholine N-oxide (0.37 g, 3.16 mmol), and crushed, dried, and activated 4 Å sieves (1.5 g) in anhydrous dichloromethane (20 ml), is added tetrapropyl ammonium peruthenate (0.09 g, 0.26 mmol). The reaction mixture is stirred for one hour at room temperature, then filtered through a silica gel plug and eluted with ethyl acetate. The filtrate is concentrated in vacuo to give 1,3-dimethyl-1H-pyrazole-4-carboxaldehyde (0.26 g, 81%) which is used without further purification. 1H NMR (CDCl3): δ=9.83 (1H, s), 7.78 (1H, s), 3.86 (3H, s), 2.46 (3H, s).

reactant | 1,3-dimethyl-1H-pyrazol-4-methanol | 2.63 mmol, 0.33 g | CN1N=C(C(=C1)CO)C | C6H10N2O
reactant | N-methyl morpholine N-oxide | 3.16 mmol, 0.37 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | tetrapropyl ammonium | 0.26 mmol, 0.09 g | C(CC)[N+](CCC)(CCC)CCC
product | 1,3-dimethyl-1H-pyrazole-4-carboxaldehyde | 0.26 g, 81% | CN1N=C(C(=C1)C=O)C | C6H8N2O
